US08193236B2
Acetic acid 5-bromo-2-methyl-benzofuran-3-yl ester
A mixture of 5-bromo-2-(1-carboxy-ethoxy)-benzoic acid (31.2 g, 108 mmol), acetic anhydride (216 mL) and anhydrous sodium acetate (21.8 g, 266 mmol) is heated under reflux (150° C.) for 4 h. After cooling to room temperature the reaction mixture is carefully quenched with ice-cold water (500 mL). A white precipitate is formed which is collected by suction filtration, thoroughly washed with water and dried in vacuo at 45° C. to afford the title compound as a white powder (19.0 g, 70.6 mmol, 65%). MS (ES+): 269 (M(C11H979BrO3)+H)+.

reactant | 5-bromo-2-(1-carboxy-ethoxy)-benzoic acid | 108 mmol, 31.2 g | BrC=1C=CC(=C(C(=O)O)C1)OC(C)C(=O)O | C10H9BrO5
reactant | acetic anhydride | 216 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 266 mmol, 21.8 g | C(C)(=O)[O-].[Na+]
product | Acetic acid 5-bromo-2-methyl-benzofuran-3-yl ester | 70.6 mmol, 19.0 g, 65% | BrC=1C=CC2=C(C(=C(O2)C)OC(C)=O)C1 | C11H9BrO3
